US07638515B2
3 g of 4-(4-iodo-2-methoxyphenyl)-4-methyl-2-oxovaleric acid (WO 98/54159) is added in a solution of 1.3 ml of thionyl chloride in 12 ml of methanol at 0° C. and stirred for 10 hours at room temperature. It is added to saturated bicarbonate solution and extracted with ethyl acetate. The organic phase is washed with bicarbonate solution and brine, dried (Na2SO4) and concentrated by evaporation. 3.2 g of 4-(4-iodo-2-methoxyphenyl)-4-methyl-2-oxovaleric acid methyl ester is obtained as a crude product. This ester is mixed with 4.5 ml of trifluoromethyltrimethylsilane in 70 ml of DMF and 1.63 g of cesium carbonate at 0° C. and stirred for 10 hours at room temperature. 20 mg of tetrabutylammonium fluoride is added, and it is stirred for another 30 minutes at room temperature. The batch is added to water and extracted with ethyl acetate. The organic phase is washed with water and brine, dried (Na2SO4) and concentrated by evaporation. After chromatography on silica gel (hexane/ethyl acetate 0->15%), 1.47 g of the title compound is obtained as a yellow oil.

reactant | 4-(4-iodo-2-methoxyphenyl)-4-methyl-2-oxovaleric acid | 3 g | IC1=CC(=C(C=C1)C(CC(C(=O)O)=O)(C)C)OC | C13H15IO4
reactant | thionyl chloride | 1.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | bicarbonate | C([O-])(O)=O
solvent | methanol | 12 ml | CO | CH4O
product | 4-(4-iodo-2-methoxyphenyl)-4-methyl-2-oxovaleric acid methyl ester | 3.2 g | COC(C(CC(C)(C)C1=C(C=C(C=C1)I)OC)=O)=O | C14H17IO4
